US04201784
2-[4'-(5"-nitrofuryl-2")-1,3-butadienyl]quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide was prepared from 4.74 g (0.03 mol.) of diethylamino-4-aminopentane and 3.91 g (0.01 mol.) of 2-[4-(5"-nitrofuryl-2")-1,3-butadienyl]quinoline-4-carboxylic acid chloride hydrochloride in 50 ml of water. The process was conducted as described in Example 7.

reactant | diethylamino-4-aminopentane | 0.03 mol, 4.74 g | C(C)N(CC)CCCC(C)N | C9H22N2
reactant | quinoline-4-carboxylic acid chloride hydrochloride | Cl.N1=CC=C(C2=CC=CC=C12)C(=O)Cl
solvent | water | 50 ml | O | H2O
product | quinoline-4-carboxylic acid (α-methyl-δ-diethylaminobutyl)amide | CC(CCCN(CC)CC)NC(=O)C1=CC=NC2=CC=CC=C12 | C19H27N3O
